### PR TITLE
[Merged by Bors] - refactor: change the proof of `Module.Finite.injective_of_surjective_endomorphism` and `commRing_strongRankCondition`

### PR DESCRIPTION
**Pull request by acmepjz**
- `Module.Finite.injective_of_surjective_endomorphism` is proved via `OrzechProperty.injective_of_surjective_endomorphism` since we already proved that commutative rings have `OrzechProperty`.
- `commRing_strongRankCondition` is proved via `inferInstance` since we know that commutative rings have `OrzechProperty`, and any nontrivial ring satisfying `OrzechProperty` also satisfies `StrongRankCondition`.

Due to the change of proof, some imports in the corresponding files become unnecessary, as reported by `shake`. This makes the change of imports in a lot of files.

The change of proof also makes `LinearMap.tunnel` and `LinearMap.tailing` not used in mathlib anymore.
These are marked as deprecated with no replacements.

---

NOTE: reason to change the imports to several files:
```
Warning: ././././Mathlib/RingTheory/FiniteType.lean:7:1: warning: unused import (use `lake exe shake --fix` to fix this, or `lake exe shake --update` to ignore)
././././Mathlib/RingTheory/FiniteType.lean:
  remove #[Mathlib.Algebra.Polynomial.Module.Basic]
  instead
    import [Mathlib.Algebra.Polynomial.Module.Basic] in Mathlib.LinearAlgebra.AnnihilatingPolynomial
Warning: ././././Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean:6:1: warning: unused import (use `lake exe shake --fix` to fix this, or `lake exe shake --update` to ignore)
Warning: ././././Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean:7:1: warning: import #[Mathlib.RingTheory.FiniteType] instead
././././Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean:
  remove #[Mathlib.LinearAlgebra.Charpoly.Basic]
  add #[Mathlib.RingTheory.FiniteType]
  instead
    import [Mathlib.RingTheory.Ideal.LocalRing] in Mathlib.LinearAlgebra.Dual
    import [Mathlib.RingTheory.Ideal.LocalRing] in Mathlib.FieldTheory.Tower
    import [Mathlib.RingTheory.Algebraic, Mathlib.FieldTheory.Minpoly.Basic] in Mathlib.FieldTheory.IntermediateField
    import [Mathlib.LinearAlgebra.Matrix.Charpoly.Coeff] in Mathlib.LinearAlgebra.Trace
    import [Mathlib.RingTheory.Ideal.LocalRing] in Mathlib.Topology.Algebra.Module.FiniteDimension
    import [Mathlib.LinearAlgebra.Dimension.Constructions] in Mathlib.LinearAlgebra.FreeModule.IdealQuotient
    import [Mathlib.LinearAlgebra.Dimension.StrongRankCondition] in Mathlib.LinearAlgebra.FreeAlgebra
```

[Open in Gitpod](https://gitpod.io/from-referrer/)

discussion: <https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.2312076.20Orzech's.20theorem>

- [x] depends on: #13322
- [x] depends on: #13425

### CODE REVIEW

File: Mathlib/RingTheory/Noetherian.lean [hunk 1]
```diff
@@ -442,14 +442,158 @@ lemma LinearMap.eventually_iSup_ker_pow_eq (f : M →ₗ[R] M) :
...
   · exact f.iterateKer.monotone h.le
 
+namespace Orzech
+
+variable {R M : Type*} [Semiring R] [AddCommMonoid M] [Module R M] {N : Submodule R M}
+  (f : N →ₗ[R] M) (hf : Surjective f) (n : ℕ)
+
+open scoped Classical in
+/-- Zero extension of `f` to `M → M`. -/
+private noncomputable def fext (x : M) : M := if h : x ∈ N then f ⟨x, h⟩ else 0
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/Noetherian.lean:452]: This is a particular case of function.extend

File: Mathlib/RingTheory/Noetherian.lean [hunk 2]
```diff
@@ -442,14 +442,158 @@ lemma LinearMap.eventually_iSup_ker_pow_eq (f : M →ₗ[R] M) :
...
+
+private theorem fext_zero : fext f 0 = 0 := by
+  rw [fext, dif_pos (zero_mem N)]; exact _root_.map_zero _
+
+/-- Define `D'_n` to be `(f⁻¹ ∘ ⋯ ∘ f⁻¹)(N)` (`n` times`). -/
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/Noetherian.lean:457]: Isn't there a more general procedure to iterate something that defining it by induction each time?

File: Mathlib/RingTheory/FiniteType.lean [hunk 3]
```diff
@@ -706,35 +705,101 @@ end MonoidAlgebra
...
+section Orzech
+
+open Submodule in
+/-- **Orzech's theorem** for finitely generated module: if `R` is a commutative ring,
+`M` and `N` are `R`-modules, `M` is finitely generated, `i : N →ₗ[R] M` is injective,
+`f : N →ₗ[R] M` is surjective, then `f` is also injective.
+This is a consequence of Noetherian case
+(`IsNoetherian.injective_of_surjective_of_injective`), which requires that `M` is a
+Noetherian module, but allows `R` to be non-commutative. The proof of this result from
+Noetherian case is adapted from <https://math.stackexchange.com/a/1066110/235999>. -/
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/FiniteType.lean:717]: I believe that Stackexchange references are not appropriate, their lifespan is not guaranteed.
Can you please add a standard reference (eg, to Orzech's paper)?

File: Mathlib/RingTheory/FiniteType.lean [hunk 4]
```diff
@@ -706,35 +705,101 @@ end MonoidAlgebra
...
-surjective endomorphism of `M` is also injective. Based on,
-https://math.stackexchange.com/a/239419/31917,
-https://www.ams.org/journals/tran/1969-138-00/S0002-9947-1969-0238839-5/.
+surjective endomorphism of `M` is also injective. The original proof is based on
+<https://math.stackexchange.com/a/239419/31917> and
+<https://www.ams.org/journals/tran/1969-138-00/S0002-9947-1969-0238839-5/>;
+now it is a corollary of `Module.Finite.injective_of_surjective_of_injective`.
 This is similar to `IsNoetherian.injective_of_surjective_endomorphism` but only applies in the
 commutative case, but does not use a Noetherian hypothesis. -/
 theorem Module.Finite.injective_of_surjective_endomorphism {R : Type*} [CommRing R] {M : Type*}
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/FiniteType.lean:799]: Given what you do below, do you need this `CommRing` hypothesis?

File: Mathlib/RingTheory/FiniteType.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/FiniteType.lean:717]: Also: While the reference there assumes commutativity to approximate the finitely generated module by a noetherian module, I have the impression that a similar argument would work in the noncommutative case.

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/FiniteType.lean:717]: (There is a paper by Paulo Ribenboim https://eudml.org/doc/111421 that investigates this question. 
Let's say a ring is Orzechian if Orzech's theorem holds for a finitely generated module over that ring. 
Left-noetherian rings are orzechian. 
A theorem of Djokovic asserts that inductive limits of orzechian rings are orzechian, and Ribenboim deduces from this fact that commutative rings are orzechian.)

Comment (acmepjz) [reply Mathlib/RingTheory/FiniteType.lean:717]: Thank you for the information. Let me list the relevant papers:

1. Orzech, Morris.
*Onto endomorphisms are isomorphisms*.
Amer. Math. Monthly 78 (1971), 357--362.
2. Djoković, D. Ž.
*Epimorphisms of modules which must be isomorphisms*.
Canad. Math. Bull. 16 (1973), 513--515.
3. Ribenboim, Paulo.
*Épimorphismes de modules qui sont nécessairement des isomorphismes*. (French)
Séminaire P. Dubreil, M.-L. Dubreil-Jacotin, L. Lesieur et C. Pisot (24ème année: 1970/71), Algèbre et théorie des nombres, Fasc. 2, Exp. No. 19, 5 pp.
Éditions de l'Académie de la République Socialiste de Roumanie, Bucharest, 1971.

The MathSciNet review of [3] suggests that it only proves that all commutative rings are Orzechian, as in this PR. It's still not known (in these 3 papers) if all non-commutative rings are also Orzechian.

Comment (acmepjz) [reply Mathlib/RingTheory/FiniteType.lean:717]: > Ribenboim notes the interesting fact: if `R` is orzechian and is a free `R`-module generated by `m` elements and `N` is a a free submodule of `M` which is generated by `n` elements, then `n≤m`.

Isn't it `StrongRankCondition`? So I suspect that Orzechian is in fact equivalent to `StrongRankCondition`?

Comment (alreadydone) [reply Mathlib/RingTheory/FiniteType.lean:717]: Indeed [IsNoetherianRing.strongRankCondition](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/InvariantBasisNumber.html#IsNoetherianRing.strongRankCondition) and [commRing_strongRankCondition](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.html#commRing_strongRankCondition) are easily implied by this PR, but I'm not sure whether you can go the other way. I didn't read the proofs in this PR or on Math.SE, but I have the impression that they resemble developments in [this section](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Prod.html#Tunnels-and-tailings). Since you've proven more general results, we can consider removing those.

Comment (acmepjz) [reply Mathlib/RingTheory/FiniteType.lean:717]: Let me see. Should the new results added in this PR be put into a new file?

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/FiniteType.lean:717]: I don't know whether that counterexample to the strong rank condition is already in mathlib, but it makes sense to add it. (At least, include comments here so that people remember!)

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/FiniteType.lean:717]: The ribenboim reference you mentioned is the one I had indicated you, but the end of the reference probably applies to the Djokovic paper.

Comment (acmepjz) [reply Mathlib/RingTheory/FiniteType.lean:717]: > I don't know whether that counterexample to the strong rank condition is already in mathlib, but it makes sense to add it. (At least, include comments here so that people remember!)

The examples are mentioned in the answer of <https://math.stackexchange.com/questions/4711904>. I doubt that they are in mathlib, since the module doc of the file containing strong rank condition does not mention the existence of counterexamples.

**Comment by acmepjz** [comment]
I've checked that `IsNoetherian.injective_of_surjective_of_injective` could be moved to `Mathlib.LinearAlgebra.InvariantBasisNumber`, but not `Module.Finite.injective_of_surjective_of_injective`, since Hilbert basis theorem is not imported by that file.

File: Mathlib/RingTheory/FiniteType.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/FiniteType.lean:717]: Can you just add this link to that file with a TODO? Maybe somebody will be willing to add the counterexample.

**Comment by AntoineChambert-Loir** [comment]
Then it would be nice to have a `Orzech` file that proves that theorem. It will be small to start with, but additions will be possible.

File: Mathlib/RingTheory/FiniteType.lean (hunk 3 above)
Comment (acmepjz) [reply Mathlib/RingTheory/FiniteType.lean:717]: > Can you just add this link to that file with a TODO? Maybe somebody will be willing to add the counterexample.

Sure, I'm working on this.

**Comment by acmepjz** [comment]
> Then it would be nice to have a `Orzech` file that proves that theorem. It will be small to start with, but additions will be possible.

My idea is nuke the contents of the file `Mathlib.LinearAlgebra.FreeModule.StrongRankCondition`, replace `commRing_strongRankCondition` by `commRing_orzechProperty`. Combined with `strongRankCondition_of_orzechProperty` it recovers the original `commRing_strongRankCondition`.

File: Mathlib/RingTheory/FiniteType.lean (hunk 3 above)
Comment (acmepjz) [reply Mathlib/RingTheory/FiniteType.lean]: I added remarks to corresponding files. Hopefully this suggestion is resolved.

File: Mathlib/RingTheory/Noetherian.lean [hunk 5]
```diff
@@ -456,14 +456,167 @@ lemma LinearMap.eventually_iSup_ker_pow_eq (f : M →ₗ[R] M) :
...
+
+private theorem map_comap_D_le : ((D f (n + 1)).comap N.subtype).map f ≤ D f n := by
+  induction n with
+  | zero => exact le_top
+  | succ n ih =>
+    exact le_inf (le_trans (map_mono (comap_mono inf_le_left)) ih)
+      (le_trans (map_mono (comap_mono inf_le_right)) (map_comap_D'_le f n))
+
+/-- The `f : N → M` can be restricted to `D_{n+1} → D_n`. -/
+private def f' : D f (n + 1) →ₗ[R] D f n :=
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/Noetherian.lean:502]: Can't use use docs#LinearMap.tunnel?

Comment (acmepjz) [reply Mathlib/RingTheory/Noetherian.lean:502]: Let me see.

File: Mathlib/FieldTheory/IntermediateField.lean [hunk 6]
```diff
@@ -4,6 +4,8 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Anne Baanen
 -/
 import Mathlib.FieldTheory.Tower
+import Mathlib.RingTheory.Algebraic
```
Comment (AntoineChambert-Loir) [inline Mathlib/FieldTheory/IntermediateField.lean:7]: Do you need these two `import`?

File: Mathlib/FieldTheory/Tower.lean [hunk 7]
```diff
@@ -7,6 +7,7 @@ import Mathlib.Data.Nat.Prime
 import Mathlib.RingTheory.AlgebraTower
 import Mathlib.LinearAlgebra.FiniteDimensional
 import Mathlib.LinearAlgebra.FreeModule.Finite.Matrix
+import Mathlib.RingTheory.Ideal.LocalRing
```
Comment (AntoineChambert-Loir) [inline Mathlib/FieldTheory/Tower.lean:10]: Is LocalRing  needed?

File: Mathlib/LinearAlgebra/AnnihilatingPolynomial.lean [hunk 8]
```diff
@@ -5,6 +5,7 @@ Authors: Justin Thomas
 -/
 import Mathlib.FieldTheory.Minpoly.Field
 import Mathlib.RingTheory.PrincipalIdealDomain
+import Mathlib.Algebra.Polynomial.Module.Basic
```
Comment (AntoineChambert-Loir) [inline Mathlib/LinearAlgebra/AnnihilatingPolynomial.lean:8]: Is this import needed?

File: Mathlib/LinearAlgebra/Dual.lean [hunk 9]
```diff
@@ -10,6 +10,7 @@ import Mathlib.LinearAlgebra.FreeModule.StrongRankCondition
 import Mathlib.LinearAlgebra.Projection
 import Mathlib.LinearAlgebra.SesquilinearForm
 import Mathlib.RingTheory.TensorProduct.Basic
+import Mathlib.RingTheory.Ideal.LocalRing
```
Comment (AntoineChambert-Loir) [inline Mathlib/LinearAlgebra/Dual.lean:13]: Do you need LocalRing here?

File: Mathlib/LinearAlgebra/FreeAlgebra.lean [hunk 10]
```diff
@@ -7,6 +7,7 @@ import Mathlib.LinearAlgebra.Basis
 import Mathlib.Algebra.FreeAlgebra
 import Mathlib.LinearAlgebra.FinsuppVectorSpace
 import Mathlib.LinearAlgebra.FreeModule.StrongRankCondition
+import Mathlib.LinearAlgebra.Dimension.StrongRankCondition
```
Comment (AntoineChambert-Loir) [inline Mathlib/LinearAlgebra/FreeAlgebra.lean:10]: Do you need this import ?

File: Mathlib/LinearAlgebra/FreeModule/IdealQuotient.lean [hunk 11]
```diff
@@ -8,6 +8,7 @@ import Mathlib.LinearAlgebra.FreeModule.PID
 import Mathlib.LinearAlgebra.FreeModule.StrongRankCondition
 import Mathlib.LinearAlgebra.QuotientPi
 import Mathlib.RingTheory.Ideal.Basis
+import Mathlib.LinearAlgebra.Dimension.Constructions
```
Comment (AntoineChambert-Loir) [inline Mathlib/LinearAlgebra/FreeModule/IdealQuotient.lean:11]: Do you need `Constructions`?

**Comment by acmepjz** [comment]
Regarding the import problem, I just blindly apply the suggestions from the linter. Let me check later.

File: Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean [hunk 12]
```diff
@@ -19,46 +19,43 @@ module is well defined.
 
 ## Main result
 
+* `commRing_orzechProperty R` : `R` has the `OrzechProperty`.
```
Comment (AntoineChambert-Loir) [inline Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean:22]: Can you add the statement of the Orzech property in the docstring?

File: Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean [hunk 13]
```diff
@@ -19,46 +19,43 @@ module is well defined.
...
 
+The new proof dierctly proves that any commutative ring satisfies the `OrzechProperty`,
+see `Module.Finite.injective_of_surjective_of_submodule` and
+`Module.Finite.injective_of_surjective_of_injective`, which is a corollary of
+Noetherian rings satisfy the `OrzechProperty`
+(`IsNoetherianRing.orzechProperty`,
+see also `IsNoetherian.injective_of_surjective_of_submodule` and
+`IsNoetherian.injective_of_surjective_of_injective`)
+and Hilbert basis theorem.
+
```
Comment (AntoineChambert-Loir) [inline Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean:42]: Add the references to the three papers we had seen, esp. Ribenboim.

File: Mathlib/LinearAlgebra/InvariantBasisNumber.lean [hunk 14]
```diff
@@ -21,14 +22,29 @@ that a surjective linear map `(Fin n → R) →ₗ[R] (Fin m → R)` implies `m
...
+for any finitely generated `R`-module `M`, any surjective homomorphism `f : N → M`
+from a submodule `N` of `M` to `M` is injective.
+It's called `Π`-ring or `Π₁`-ring in their papers.
+They showed that any Noetherian ring (not necessarily commutative) and any commutative ring
+satisfies this property.
+It's easy to see that such property implies strong rank condition given the ring is non-trivial.
+
 The strong rank condition implies the rank condition, and the rank condition implies
 the invariant basis number property.
+The converse is not true, as we have counterexamples in the book of Lam
```
Comment (AntoineChambert-Loir) [inline Mathlib/LinearAlgebra/InvariantBasisNumber.lean:35]: Add bibtex reference to Lam

File: Mathlib/LinearAlgebra/InvariantBasisNumber.lean [hunk 15]
```diff
@@ -56,6 +72,10 @@ variants) should be formalized.
 
 * https://en.wikipedia.org/wiki/Invariant_basis_number
 * https://mathoverflow.net/a/2574/
+* Lam, T. Y. *Lectures on Modules and Rings*
```
Comment (AntoineChambert-Loir) [inline Mathlib/LinearAlgebra/InvariantBasisNumber.lean:75]: Add these references to the bibtex file.

File: Mathlib/RingTheory/Noetherian.lean [hunk 16]
```diff
@@ -456,14 +456,167 @@ lemma LinearMap.eventually_iSup_ker_pow_eq (f : M →ₗ[R] M) :
   · rw [← hn _ (hm.trans h), hn _ hm]
   · exact f.iterateKer.monotone h.le
 
+namespace Orzech
+
+variable {R M : Type*} [Semiring R] [AddCommMonoid M] [Module R M] {N : Submodule R M}
+  (f : N →ₗ[R] M) (hf : Surjective f) (n : ℕ)
+
+open scoped Classical in
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/Noetherian.lean:464]: This is kind of dual of `LinearMap.tunnel`. I would say that deserves a similar API.

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean [hunk 17]
```diff
@@ -7,6 +7,7 @@ import Mathlib.Analysis.LocallyConvex.BalancedCoreHull
 import Mathlib.LinearAlgebra.FreeModule.Finite.Matrix
 import Mathlib.Topology.Algebra.Module.Simple
 import Mathlib.Topology.Algebra.Module.Determinant
+import Mathlib.RingTheory.Ideal.LocalRing
```
Comment (AntoineChambert-Loir) [inline Mathlib/Topology/Algebra/Module/FiniteDimension.lean:10]: Do you need LocalRing?

File: Mathlib/RingTheory/Noetherian.lean (hunk 16 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/Noetherian.lean:464]: (This comment corrects an earlier comment, about whether one can use docs#LinearMap.tunnel. Since it is dual, probably not, but it is probably interesting to define functions similar to it for surjective linear maps. (What name to give? Funnel? lennut?)

Comment (acmepjz) [reply Mathlib/RingTheory/Noetherian.lean:464]: Could be called `cotunnel` :D

By the way, I'm not investigated whether the proof can be written using the existing `LinearMap.tunnel`.

**Comment by acmepjz** [comment]
Unfortunately, but after removing imports those files can't be compiled. :(

File: Mathlib/LinearAlgebra/InvariantBasisNumber.lean (hunk 14 above)
Comment (acmepjz) [reply Mathlib/LinearAlgebra/InvariantBasisNumber.lean:35]: I'm confused with the descriptions in <https://leanprover-community.github.io/contribute/doc.html#citing-other-works>. It gives three examples in the end, but seems that none of references in them works. The reference page for mathlib docs is just 404.

Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/InvariantBasisNumber.lean:35]: I don't know why the references pages are not visible in mathlib4_docs.
To start with, I believe it is enough to add the references of Ribenboim, Orzech and Lam to docs/reference.bib and to mention them with the adequate label.

Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/InvariantBasisNumber.lean:35]: See : https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/references.2Ebib/near/338473634

File: Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean [hunk 18]
```diff
@@ -19,46 +19,51 @@ module is well defined.
...
+## References
+
+* [Orzech, Morris. *Onto endomorphisms are isomorphisms*][orzech1971]
+* [Djoković, D. Ž. *Epimorphisms of modules which must be isomorphisms*][djokovic1973]
+* [Ribenboim, Paulo. *Épimorphismes de modules qui sont nécessairement des isomorphismes*][ribenboim1971]
+
```
Comment (acmepjz) [inline Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean:50]: What should I do with this line? Is it supposed to be split as two lines?

Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean:50]: I believe you can split in in the middle of the description, as in (untested)
```
* [Ribenboim, Paulo. *Épimorphismes de modules qui sont nécessairement 
  des isomorphismes*][ribenboim1971]
```

File: Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean (hunk 12 above)
Comment (acmepjz) [reply Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean]: Done.

File: Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean (hunk 13 above)
Comment (acmepjz) [reply Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean:44]: Added.

File: Mathlib/LinearAlgebra/InvariantBasisNumber.lean (hunk 14 above)
Comment (acmepjz) [reply Mathlib/LinearAlgebra/InvariantBasisNumber.lean]: Added.

File: Mathlib/LinearAlgebra/InvariantBasisNumber.lean (hunk 15 above)
Comment (acmepjz) [reply Mathlib/LinearAlgebra/InvariantBasisNumber.lean]: Added.

File: Mathlib/RingTheory/Noetherian.lean (hunk 16 above)
Comment (acmepjz) [reply Mathlib/RingTheory/Noetherian.lean]: Done. I removed `tunnel` and `tailing`, added `iterateMapComap` for the substitution.

File: Mathlib/Algebra/Module/Submodule/IterateMapComap.lean [hunk 19]
```diff
@@ -0,0 +1,110 @@
...
+/-!
+
+# Iterate maps and comaps of submodules
+
+Some preliminary work for establishing the strong rank condition for noetherian rings.
+
+Given two linear maps `f i : M →ₗ[R] M₂` and a submodule `K : Submodule R M`, we can define
+`LinearMap.iterateMapComapAux f i n K : Submodule R M` to be `f⁻¹(i(⋯(f⁻¹(i(K)))))` (`n` times).
+If `f(K) ≤ i(K)`, then this sequence is non-decreasing (`LinearMap.iterateMapComap`).
+If moreover `f` is surjective, `i` is injective, there exists some `m` such that
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/Module/Submodule/IterateMapComap.lean:17]: "and there exists"

File: Mathlib/Algebra/Module/Submodule/IterateMapComap.lean [hunk 20]
```diff
@@ -0,0 +1,110 @@
...
+`LinearMap.iterateMapComapAux f i m K = LinearMap.iterateMapComapAux f i (m + 1) K`,
+then for any `n`,
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/Module/Submodule/IterateMapComap.lean:19]: n at least m?

File: Mathlib/Algebra/Module/Submodule/IterateMapComap.lean [hunk 21]
```diff
@@ -0,0 +1,110 @@
...
+open Function Submodule
+
+namespace LinearMap
+
+variable {R M M₂ : Type*} [Semiring R] [AddCommMonoid M] [Module R M]
+  [AddCommMonoid M₂] [Module R M₂] (f i : M →ₗ[R] M₂)
+
+/-- The `LinearMap.iterateMapComapAux f i n K : Submodule R M` is
+`f⁻¹(i(⋯(f⁻¹(i(K)))))` (`n` times). -/
+def iterateMapComapAux (n : ℕ) := (fun K : Submodule R M ↦ (K.map i).comap f)^[n]
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/Module/Submodule/IterateMapComap.lean:42]: This deserves discussion, but I would call this `iterateMapComap`and find something else for the latter `iterateMapComap`.

File: Mathlib/Algebra/Module/Submodule/IterateMapComap.lean [hunk 22]
```diff
@@ -0,0 +1,110 @@
...
+    f.iterateMapComapAux i n K < f.iterateMapComapAux i (n + 1) K := by
+  induction n with
+  | zero => exact h
+  | succ n ih =>
+    refine Ne.lt_of_le (fun H ↦ ?_)
+      (iterateMapComapAux_le_succ f i K (map_le_iff_le_comap.2 h.le) (n + 1))
+    rw [iterateMapComapAux, iterateMapComapAux, iterate_succ', iterate_succ'] at H
+    exact ih.ne (map_injective_of_injective hi (comap_injective_of_surjective hf H))
+
+/-- If `f(K) ≤ i(K)`, `f` is surjective, `i` is injective, there exists some `m` such that
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/Module/Submodule/IterateMapComap.lean:78]: "and there exists…"

File: Mathlib/Algebra/Module/Submodule/IterateMapComap.lean [hunk 23]
```diff
@@ -0,0 +1,110 @@
...
+`LinearMap.iterateMapComapAux f i m K = LinearMap.iterateMapComapAux f i (m + 1) K`,
+then for any `n`,
+`LinearMap.iterateMapComapAux f i n K = LinearMap.iterateMapComapAux f i (n + 1) K`.
+In particular, by taking `n = 0`, the kernel of `f` is contained in `K`
+(`LinearMap.ker_le_of_iterateMapComapAux_eq_succ`),
+which is a consequence of `LinearMap.ker_le_comap`. -/
+theorem iterateMapComapAux_eq_succ (K : Submodule R M) (h : K.map f ≤ K.map i)
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/Module/Submodule/IterateMapComap.lean:85]: Can't you directly deduce a contradiction by distinguishing whether the module at 0 is = or < the one at 1?

File: Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean [hunk 24]
```diff
@@ -19,46 +19,52 @@ module is well defined.
...
 
+* `commRing_orzechProperty R` : `R` has the `OrzechProperty`, that is, for any finitely generated
+  `R`-module `M`, any surjective homomorphism `f : N → M` from a submodule `N` of `M` to `M`
+  is injective.
 * `commRing_strongRankCondition R` : `R` has the `StrongRankCondition`.
 
 ## References
 
-We follow the proof given in https://mathoverflow.net/a/47846/7845.
+The original proof was adapt from <https://mathoverflow.net/a/47846/7845>.
```
Comment (AntoineChambert-Loir) [inline Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean:29]: adapted

File: Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean [hunk 25]
```diff
@@ -19,46 +19,52 @@ module is well defined.
...
 The argument is the following: it is enough to prove that for all `n`, there is no injective linear
 map `(Fin (n + 1) → R) →ₗ[R] Fin n → R`. Given such an `f`, we get by extension an injective
 linear map `g : (Fin (n + 1) → R) →ₗ[R] Fin (n + 1) → R`. Injectivity implies that `P`, the
 minimal polynomial of `g`, has non-zero constant term `a₀ ≠ 0`. But evaluating `0 = P(g)` at the
 vector `(0,...,0,1)` gives `a₀`, contradiction.
 
+The new proof dierctly proves that any commutative ring satisfies the `OrzechProperty`,
```
Comment (AntoineChambert-Loir) [inline Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean:36]: directly

File: Mathlib/LinearAlgebra/InvariantBasisNumber.lean [hunk 26]
```diff
@@ -76,6 +98,57 @@ section
...
 variable (R : Type u) [Semiring R]
 
+/-- We say that `R` satisfies the Orzech property, if for any finitely generated `R`-module `M`,
+    any surjective homomorphism `f : N → M` from a submodule `N` of `M` to `M` is injective. -/
+@[mk_iff]
+class OrzechProperty : Prop where
+  injective_of_surjective_of_submodule' : ∀ {M : Type u} [AddCommMonoid M] [Module R M]
+    [Module.Finite R M] {N : Submodule R M} (f : N →ₗ[R] M), Surjective f → Injective f
+
+variable {R} in
```
Comment (AntoineChambert-Loir) [inline Mathlib/LinearAlgebra/InvariantBasisNumber.lean:108]: I really appreciate that you get rid of the universes constraint.

File: Mathlib/RingTheory/FiniteType.lean [hunk 27]
```diff
@@ -706,35 +705,102 @@ end MonoidAlgebra
...
+This is a consequence of Noetherian case
+(`IsNoetherian.injective_of_surjective_of_injective`), which requires that `M` is a
+Noetherian module, but allows `R` to be non-commutative. The proof of this result from
+Noetherian case is adapted from <https://math.stackexchange.com/a/1066110>.
+See also Orzech's original paper: *Onto endomorphisms are isomorphisms* [orzech1971]. -/
+theorem Module.Finite.injective_of_surjective_of_injective
+    {R M N : Type*} [CommRing R] [AddCommGroup M] [Module R M] [Module.Finite R M]
+    [AddCommGroup N] [Module R N] (i f : N →ₗ[R] M)
+    (hi : Function.Injective i) (hf : Function.Surjective f) : Function.Injective f := by
+  refine LinearMap.ker_eq_bot.1 <| LinearMap.ker_eq_bot'.2 fun n hn ↦ ?_
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/FiniteType.lean:723]: I's a matter of style, but I would have liked to guess what the terse code does.
Why not add a few comments such as "we reduce to the noetherian case…"
In particular, when the induction begins, it's almost impossible to guess what it will be about.

File: Mathlib/Algebra/Module/Submodule/IterateMapComap.lean (hunk 21 above)
Comment (acmepjz) [reply Mathlib/Algebra/Module/Submodule/IterateMapComap.lean:42]: This naming convention come after the original `tunnelAux` and `tunnel`, one is the map itself, another one is the order preserving map (`→o`).

> ... the latter `iterateMapComap` (in fact, it seems to be never used…)

It is used as `monotone_stabilizes_iff_noetherian.2 ‹_› (f.iterateMapComap i ⊥ (by simp))`, since it is order preserving (i.e. non-decreasing), by Noetherian it must stabilizes.

File: Mathlib/LinearAlgebra/InvariantBasisNumber.lean (hunk 26 above)
Comment (acmepjz) [reply Mathlib/LinearAlgebra/InvariantBasisNumber.lean:108]: Maybe I should add a docstring to the definition of `OrzechProperty` since I can't use universe polymorphic in the definition. But we actually can prove a universe polymorphic version `OrzechProperty.injective_of_surjective_of_injective` using `small_of_surjective`.

File: Mathlib/RingTheory/FiniteType.lean (hunk 27 above)
Comment (acmepjz) [reply Mathlib/RingTheory/FiniteType.lean:723]: > Why not add a few comments such as "we reduce to the noetherian case…"
> In particular, when the induction begins, it's almost impossible to guess what it will be about.

Let me write the sketch in the docstring.

File: Mathlib/Algebra/Module/Submodule/IterateMapComap.lean (hunk 23 above)
Comment (acmepjz) [reply Mathlib/Algebra/Module/Submodule/IterateMapComap.lean:85]: Let me check later.

File: Mathlib/LinearAlgebra/InvariantBasisNumber.lean (hunk 26 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/InvariantBasisNumber.lean:108]: Yes, the docstring should say that, and the universe polymorphic version as well.

File: Mathlib/Algebra/Module/Submodule/IterateMapComap.lean (hunk 23 above)
Comment (acmepjz) [reply Mathlib/Algebra/Module/Submodule/IterateMapComap.lean:85]: That was my original plan: `have key : f.iterateMapComapAux i 0 K = f.iterateMapComapAux i 1 K := by ...` but anyway to prove the general case one needs to use induction, and the `key` is the initial step: `| zero => exact key`.

File: Mathlib/Algebra/Module/Submodule/IterateMapComap.lean (hunk 21 above)
Comment (acmepjz) [reply Mathlib/Algebra/Module/Submodule/IterateMapComap.lean]: OK, I removed the `→o` version (inlined it in the proof).

File: Mathlib/RingTheory/FiniteType.lean (hunk 27 above)
Comment (acmepjz) [reply Mathlib/RingTheory/FiniteType.lean:735]: Done.

File: Mathlib/LinearAlgebra/InvariantBasisNumber.lean (hunk 26 above)
Comment (acmepjz) [reply Mathlib/LinearAlgebra/InvariantBasisNumber.lean:113]: Done.

File: Mathlib/Algebra/Module/Submodule/IterateMapComap.lean [hunk 28]
```diff
@@ -0,0 +1,104 @@
...
+    exact ih.ne (map_injective_of_injective hi (comap_injective_of_surjective hf H))
+
+/-- If `f(K) ≤ i(K)`, `f` is surjective, `i` is injective, and there exists some `m` such that
+`LinearMap.iterateMapComap f i m K = LinearMap.iterateMapComap f i (m + 1) K`,
+then for any `n`,
+`LinearMap.iterateMapComap f i n K = LinearMap.iterateMapComap f i (n + 1) K`.
+In particular, by taking `n = 0`, the kernel of `f` is contained in `K`
+(`LinearMap.ker_le_of_iterateMapComap_eq_succ`),
+which is a consequence of `LinearMap.ker_le_comap`. -/
+theorem iterateMapComap_eq_succ (K : Submodule R M) (h : K.map f ≤ K.map i)
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/Module/Submodule/IterateMapComap.lean:79]: It is unlikely one will use this theorem, except for proving the next one, so I would try to prove only the second one.

Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Module/Submodule/IterateMapComap.lean:79]: iterateMapComap cannot be strictly increasing, so the first two steps are equal, etc.

File: Mathlib/RingTheory/FiniteType.lean [hunk 29]
```diff
@@ -706,35 +705,114 @@ end MonoidAlgebra
...
+We can choose `{ n_j }` which are preimages of `{ m_j }` under `f`, and can choose
+`{ c_jl }` in `R` such that `i n_j = ∑ l, c_jl * m_l` for each `j`.
+Now let `A` be the subring of `R` generated by `{ b_j }` and `{ c_jl }`, then it is
+Noetherian. Let `N'` be the `A`-submodule of `N` generated by `n` and `{ n_j }`,
+`M'` be the `A`-submodule of `M` generated by `{ m_j }`,
+then it's easy to see that `i` and `f` restrict to `N' →ₗ[A] M'`,
+and the restricted version of `f` is surjective, hence by Noetherian case,
+it is also injective, in particular, if `f n = 0`, then `n = 0`.
+
+See also Orzech's original paper: *Onto endomorphisms are isomorphisms* [orzech1971]. -/
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/FiniteType.lean:730]: This is the Orzech property! Can you add an instance?

**Comment by AntoineChambert-Loir** [comment]
There is one thing that confuses me now:
There are many files with versions of Orzech's theorem, and it is not clear to me that all of them are needed now.
Why not add instances whenever possible instead of in `StrongRankCondition`? and state them using the Orzech property?
Moreover, they probably do not need a grand explanation and references once the `Orzech property` is mentioned.

File: Mathlib/Algebra/Module/Submodule/IterateMapComap.lean (hunk 28 above)
Comment (acmepjz) [reply Mathlib/Algebra/Module/Submodule/IterateMapComap.lean:79]: > It is unlikely one will use this theorem, except for proving the next one, so I would try to prove only the second one.

I see. Will change it.

**Comment by acmepjz** [comment]
> There is one thing that confuses me now: There are many files with versions of Orzech's theorem, and it is not clear to me that all of them are needed now. Why not add instances whenever possible instead of in `StrongRankCondition`? and state them using the Orzech property? Moreover, they probably do not need a grand explanation and references once the `Orzech property` is mentioned.

Basically there are two, one is for `IsNoetherian`, another one is for `Module.Finite` and commutative rings.

I think the `IsNoetherian` one cannot be removed, since it assumes nothing on the ring, but only assumes the module being Noetherian. So it implies Noetherian ring satisfies `OrzechProperty`, but not vice versa.

The `Module.Finite` one could probably be removed since it just said that commutative ring satisfies `OrzechProperty`. But there are some dependency problem, because the file defining `OrzechProperty` is not imported yet... Maybe the `OrzechProperty` should be in a separate file, without `InvariantBasisNumber` etc.?

File: Mathlib/Algebra/Module/Submodule/IterateMapComap.lean (hunk 28 above)
Comment (acmepjz) [reply Mathlib/Algebra/Module/Submodule/IterateMapComap.lean]: Done. A superfluous condition is also removed.

**Comment by jcommelin** [comment]
I put your "NOTE" below the fold, because I don't think it should end up in the commit message

**Comment by AntoineChambert-Loir** [comment]
You can try that, yes.
The point is that I was confused yesterday night about all these versions, and was basically unable to sort out which was which. 
I don't believe it's a problem to delegate one theorem such as this one or the IBN to a specific file.
If you have one for Orzech, and one for IBN+RC+SRC, that should look clean, except that the latter will plainly import Orzech and conclude, and Orzech is short. 
The important thing to me is to be sure that there are no duplicate proofs.
(BTW, there could be a Orzech property for modules: for all submodules N...)

File: Mathlib/Algebra/Module/Submodule/IterateMapComap.lean [hunk 30]
```diff
@@ -0,0 +1,94 @@
...
+-/
+import Mathlib.Algebra.Module.Submodule.Ker
+
+/-!
+
+# Iterate maps and comaps of submodules
+
+Some preliminary work for establishing the strong rank condition for noetherian rings.
+
+Given two linear maps `f i : M →ₗ[R] M₂` and a submodule `K : Submodule R M`, we can define
```
Comment (jcommelin) [inline Mathlib/Algebra/Module/Submodule/IterateMapComap.lean:14]: Is there a particular reason that you call the modules `M` and `M₂`? I would prefer a bit more symmetry. Either `M` and `N`, or give both a subscript.

File: Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean [hunk 31]
```diff
@@ -19,46 +19,52 @@ module is well defined.
...
 
+* `commRing_orzechProperty R` : `R` has the `OrzechProperty`, that is, for any finitely generated
+  `R`-module `M`, any surjective homomorphism `f : N → M` from a submodule `N` of `M` to `M`
+  is injective.
 * `commRing_strongRankCondition R` : `R` has the `StrongRankCondition`.
 
 ## References
 
-We follow the proof given in https://mathoverflow.net/a/47846/7845.
+The original proof was adapted from <https://mathoverflow.net/a/47846/7845>.
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean:29]: I am not sure it is helpful to refer to the `original` and `new` proof. Because the only thing visible in the file is the new proof. If you think it is good to keep this comment, please indicate for the user where in the git history they can find a formalization of the original proof.

File: Mathlib/LinearAlgebra/InvariantBasisNumber.lean [hunk 32]
```diff
@@ -76,6 +113,62 @@ section
 
 variable (R : Type u) [Semiring R]
 
+/-- We say that `R` satisfies the Orzech property, if for any finitely generated `R`-module `M`,
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/InvariantBasisNumber.lean:116]:
```suggestion
/-- A ring `R` satisfies the Orzech property, if for any finitely generated `R`-module `M`,
```

File: Mathlib/LinearAlgebra/InvariantBasisNumber.lean [hunk 33]
```diff
@@ -76,6 +113,62 @@ section
...
+in fact implies the universe polymorphic versions
+`OrzechProperty.injective_of_surjective_of_injective`
+and `OrzechProperty.injective_of_surjective_of_submodule`. -/
+@[mk_iff]
+class OrzechProperty : Prop where
+  injective_of_surjective_of_submodule' : ∀ {M : Type u} [AddCommMonoid M] [Module R M]
+    [Module.Finite R M] {N : Submodule R M} (f : N →ₗ[R] M), Surjective f → Injective f
+
+variable {R} in
+theorem OrzechProperty.injective_of_surjective_of_injective [OrzechProperty R]
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/InvariantBasisNumber.lean:129]: Please use a namespace and `variable` for the next for results.

File: Mathlib/RingTheory/FiniteType.lean (hunk 29 above)
Comment (acmepjz) [reply Mathlib/RingTheory/FiniteType.lean:730]: I have moved `commRing_orzechProperty` to this file.

File: Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean (hunk 31 above)
Comment (jcommelin) [reply Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean:29]: I'm fine with removing the old text from the docstring.

Comment (acmepjz) [reply Mathlib/LinearAlgebra/FreeModule/StrongRankCondition.lean]: OK. I have removed the references to old proofs.

File: Mathlib/RingTheory/FiniteType.lean [hunk 34]
```diff
@@ -799,32 +798,17 @@ end Orzech
 section Vasconcelos
 
 /-- A theorem/proof by Vasconcelos, given a finite module `M` over a commutative ring, any
```
Comment (jcommelin) [inline Mathlib/RingTheory/FiniteType.lean:800]:
```suggestion
/-- A theorem by Vasconcelos, given a finite module `M` over a commutative ring, any
```

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
